US04281188
A dichloroethane solution of [5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate, prepared as described in paragraph (a) of Example 1 from 12.5 g (0.044 M) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one, is added to a solution of 8 g of 1-amino-2-propanol in 100 ml of 1,2-dichloroethane, the mixture is stirred at room temperature for 15 minutes and then concentrated. The residue is purified on a 300 g silica gel column using methylene chloride and then acetone as the eluting agent. This operation is repeated once using ethyl acetate as the eluting agent. After crystallisation from ethyl acetate, there is obtained rac-1-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxypropyl)urea which melts at 149°-151° C. with decomposition.

reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | [5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)N=C=O)C)=O | C17H12FN3O2
reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.044 M, 12.5 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C16H14FN3O
reactant | 1-amino-2-propanol | 8 g | NCC(C)O | C3H9NO
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | rac-1-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxypropyl)urea | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)NC(=O)NCC(C)O)C)=O | C20H21FN4O3
